US05059596
Step C: 2-ethoxy-3,3,4,4-tetramethyl-1-azetine
To a solution of 60 ml (1M) of triethyloxonium tetrafluoroborate in dichloromethane was added 5 g (0.039 mol) of tetramethylazetidinone in 10 ml of dry CH2Cl2 under an inert atmosphere. The reaction mixture was stirred for 1 hour at room temperature and then was refluxed for 1 hour. After cooling, the reaction mixture was added dropwise to 20 ml of a 50% K2CO3 solution at -10° C. and the mixture was diluted with 20 ml of CH2Cl2 and then filtered. The organic phase was separated out and immediately dried over MgSO4. After filtration, the solvent was stripped off under vacuum and the residue was distilled at 78° to 80° C./50 mmHg to obtain the product as a colorless oil.

reactant | triethyloxonium tetrafluoroborate | 1M, 60 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | tetramethylazetidinone | 0.039 mol, 5 g | CC1(C(C(N1)=O)(C)C)C | C7H13NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-ethoxy-3,3,4,4-tetramethyl-1-azetine | C(C)OC1=NC(C1(C)C)(C)C | C9H17NO
